US06191150B1
(2S,3R)-2-tert-Butoxycarbonylamino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide (101 mg, 0.243 mmol) is dissolved in 1 mL THF and 1.5 mL of 4 N HCl in dioxane is added. After 2 h, THF is added and the white precipitate is collected by filtration. The resulting oily solid is treated with methanol and concentrated in vacuo. THF is added and the mixture is concentrated in vacuo; this THF addition and concentration is repeated several times to give (2S,3R)-2-amino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide hydrochloride as a solid (83 mmol, 97%).

reactant | (2S,3R)-2-tert-Butoxycarbonylamino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide | 0.243 mmol, 101 mg | S1C(=NC=C1)NC([C@H]([C@@H](CCNCN=N[N+](=O)[O-])C)NC(=O)OC(C)(C)C)=O | C15H25N7O5S
reactant | HCl | 4 N, 1.5 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S,3R)-2-amino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide hydrochloride | 83 mmol, 97% | Cl.S1C(=NC=C1)NC([C@H]([C@@H](CCNCN=N[N+](=O)[O-])C)N)=O | InChI=1S/C10H17N7O3S.ClH/c1-7(2-3-12-6-14-16-17(19)20)8(11)9(18)15-10-13-4-5-21-10;/h4-5,7-8,12H,2-3,6,11H2,1H3,(H,13,15,18);1H/t7-,8+;/m1./s1
